US08466167B2
A mixture of 8-nitrobenzo[f][1,7]naphthyridin-5-amine (from the previous step) (1.0 eq) and Raney Nickel (wet, 10% wt) in EtOH was stirred under H2 balloon overnight. The reaction mixture was diluted with DCM. The insoluble solid was filtered off through celite, and the filtrate was concentrated en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-100% EtOAc/Hexanes to give 3-chlorobenzo[f][1,7]naphthyridine-5,8-diamine as a white solid. 1H NMR (methanol-d4): δ 8.75 (d, 1H), 8.08 (dd, 1H), 7.70 (d, 1H), 6.84-6.81 (m, 2H). LRMS [M+H]=245.1.

reactant | 8-nitrobenzo[f][1,7]naphthyridin-5-amine | [N+](=O)([O-])C1=CC=2C(=C3C=CC=NC3=C(N2)N)C=C1 | C12H8N4O2
reactant | DCM | C(Cl)Cl | CH2Cl2
catalyst | Raney Nickel | [Ni] | Ni
solvent | EtOH | CCO | C2H6O
product | 3-chlorobenzo[f][1,7]naphthyridine-5,8-diamine | ClC1=NC2=C(N=C3C(=C2C=C1)C=CC(=C3)N)N | C12H9ClN4
